US04590192
6-Acetamido-3-ethoxy-benzoisothiazole-1,1-dioxide
A solution of 6-amino-3-ethoxy-benzoisothiazole-1,1-dioxide (0.23 g) and acetic anhydride (0.1 ml) in pyridine (1 ml) was stirred at room temperature for 15 hrs. Concentration and trituration under ether/petrol (1:1) gave the title compound (0.24 g).

reactant | 6-amino-3-ethoxy-benzoisothiazole-1,1-dioxide | 0.23 g | NC1=CC2=C(C(=NS2(=O)=O)OCC)C=C1 | C9H10N2O3S
reactant | acetic anhydride | 0.1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 6-Acetamido-3-ethoxy-benzoisothiazole-1,1-dioxide | 0.24 g | C(C)(=O)NC1=CC2=C(C(=NS2(=O)=O)OCC)C=C1 | C11H12N2O4S
